US05182263
4-Bromobenzonitrile (20 g, 110 mmol), sodium azide (7.9 g, 121 mmol) and NH4Cl (6.5 g, 121 mmol) in DMF (340 mL) were heated at 90° C. under argon. After 2 days the reaction mixture was concentrated and then diluted with water (300 mL). After adding enough 1M NaOH to render the mixture basic (litmus paper) it was washed with ether (4×25 mL). The aqueous portion was acidified to pH 3 with 1N HCl, the precipitated product was collected by suction filtration and then washed with water. The crude product was recrystallized from ethanol to give crystalline 5-(4-bromophenyl)-2H-tetrazole (19.2 g, 83.6 mmol) in 76% yield, mp. 271°-273° C.

reactant | 4-Bromobenzonitrile | 110 mmol, 20 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | sodium azide | 121 mmol, 7.9 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 121 mmol, 6.5 g | [NH4+].[Cl-]
solvent | DMF | 340 mL | CN(C)C=O | C3H7NO
product | 5-(4-bromophenyl)-2H-tetrazole | 83.6 mmol, 19.2 g, 76% yield | BrC1=CC=C(C=C1)C=1N=NNN1 | C7H5BrN4
